US06825147B2
A) Preparation of 3,4-diphenyl-3-cyclopentene-1-sulfonyl chloride
3,4-Diphenyl-3-cyclopenten-1-ol (5.91 g) was dissolved in the mixture of 70 mL of methylene chloride and 50 mL of pyrridine. To this reaction mixture was added 4 mL of CH3SO3Cl. After stirring overnight and reaction mixture was washed with 1 M of HCl, H2O and NaHCO3. Solution was dried over Mg2SO4 and then filtered. Solvent removal gave brown solid. About 8 mL of ethyl acetate was added followed by 150 mL of hexane producing off-white crystalline solid). After stirring overnight solid was collected on the frit, washed with 10 mL of hexane and then dried under reduced pressure to give 4.0 g of product.

reactant | 3,4-Diphenyl-3-cyclopenten-1-ol | 5.91 g | C1(=CC=CC=C1)C=1CC(CC1C1=CC=CC=C1)O | C17H16O
reactant | CH3SO3Cl | 4 mL | CS(=O)(=O)OCl | CH3ClO3S
reactant | ethyl acetate | 8 mL | C(C)(=O)OCC | C4H8O2
reactant | hexane | 150 mL | CCCCCC | C6H14
reactant | methylene chloride | 70 mL | C(Cl)Cl | CH2Cl2
product | 3,4-diphenyl-3-cyclopentene-1-sulfonyl chloride | 4.0 g | C1(=CC=CC=C1)C=1CC(CC1C1=CC=CC=C1)S(=O)(=O)Cl | C17H15ClO2S
